US06521643B1
To a suspension of 2-bromo-4-methylpyridine (2.0 g), 4-formylphenylboronic acid (2.27 g) and tetrakis(triphenylphosphine)-palladium (0.67 g) in 1,2-dimethoxyethane (40 ml) was added 2M aqueous solution of sodium carbonate (15.1 ml). The mixture was stirred at 90° C. for 6 hours under a nitrogen atmosphere, then cooled to room temperature and diluted with ethyl acetate. The organic layer was separated, washed with water and brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 75 g, dichloromethane) to give 4-(4-methylpyridin-2-yl)benzaldehyde (483 mg).

reactant | 2-bromo-4-methylpyridine | 2.0 g | BrC1=NC=CC(=C1)C | C6H6BrN
reactant | 4-formylphenylboronic acid | 2.27 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | sodium carbonate | 15.1 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 40 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium | 0.67 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(4-methylpyridin-2-yl)benzaldehyde | 483 mg | CC1=CC(=NC=C1)C1=CC=C(C=O)C=C1 | C13H11NO
